US06642229B2
A mixture of 3-(3-methoxyphenyl)-7-methylimidazo[1,2-a]pyrimidine (5.02 g, 21 mmol) in hydrogen bromide (25 ml of a 30 wt. % solution in acetic acid) was heated at 130° C. for 8 h. A further portion of hydrogen bromide solution was added (25 ml) and heating continued for 16 h. The reaction was cooled to ambient temperature and diluted with ice-cold water (200 ml). The aqueous phase was made neutral with 4N sodium hydroxide then extracted with dichloromethane (2×250 ml). The organics were combined, washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. The residue was triturated with ether to afford 3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)-phenol as a light-grey solid (4.4 g, 93%): m/z (ES+) 226 (M++H).

reactant | 3-(3-methoxyphenyl)-7-methylimidazo[1,2-a]pyrimidine | 21 mmol, 5.02 g | COC=1C=C(C=CC1)C1=CN=C2N1C=CC(=N2)C | C14H13N3O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)-phenol | 4.4 g, 93% | CC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)O | C13H11N3O
